US07678803B2
7-Fluoro-pyrido[3,2-d]pyrimidin-4-ylamine
3,5-Difluoro-pyridine-2-carbonitrile (2.54 mmol, 356 mg) is dissolved in DMA (5 mL) and then formamidine acetate is added (2.54 mmol, 264.6 mg) followed by DIEA (7.62 mmol, 983 mg). The reaction mixture is stirred for 16 h at 100° C., then poured into saturated NH4Cl aq. and extracted 3 times with CH2Cl2. The organics are dried with Na2SO4, concentrated, and purified on Biotage with 0-20% MeOH in CH2Cl2. This gives the desired product 7-Fluoro-pyrido[3,2-d]pyrimidin-4-ylamine (27 mg, LC/MS m/z=165 [M+H]+) as a white powder.

reactant | 3,5-Difluoro-pyridine-2-carbonitrile | 2.54 mmol, 356 mg | FC=1C(=NC=C(C1)F)C#N | C6H2F2N2
reactant | formamidine acetate | C(C)(=O)O.C(=N)N
reactant | DIEA | 7.62 mmol, 983 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
product | 7-Fluoro-pyrido[3,2-d]pyrimidin-4-ylamine | 27 mg | FC1=CC=2N=CN=C(C2N=C1)N | C7H5FN4
